US09303045B2
Step 1: Methyl 1-(isopropylsulfonyl)-1H-indole-3-carboxylate
To a solution of methyl 1H-indole-3-carboxylate (0.234 g, 1.336 mmol) in THF (6.68 ml) was added sodium bis(trimethylsilyl)amide (2.67 ml, 2.67 mmol) at RT. After 30 min, propane-2-sulfonyl chloride (0.3 ml, 2.67 mmol) was added and the mixture was stirred for 2 h. The reaction mixture was then poured into brine and extracted twice with EtOAc. The combined extracts were filtered through MgSO4 and concentrated to give the title compound as a brown solid, which was used without further purification.

reactant | methyl 1H-indole-3-carboxylate | 1.336 mmol, 0.234 g | N1C=C(C2=CC=CC=C12)C(=O)OC | C10H9NO2
reactant | sodium bis(trimethylsilyl)amide | 2.67 mmol, 2.67 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | propane-2-sulfonyl chloride | 2.67 mmol, 0.3 ml | CC(C)S(=O)(=O)Cl | C3H7ClO2S
solvent | THF | 6.68 ml | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | Methyl 1-(isopropylsulfonyl)-1H-indole-3-carboxylate | C(C)(C)S(=O)(=O)N1C=C(C2=CC=CC=C12)C(=O)OC | C13H15NO4S
